### PR TITLE
chore(Algebra): misc. generalizations by LLM

### PR DESCRIPTION
**Pull request by harahu**
All found by asking Codex to search for low-hanging generalization opportunities.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 1]
```diff
@@ -706,6 +706,76 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulSemiringAction
...
+theorem le_div_iff_mul_le {I J K : Submodule R A} : I ≤ J / K ↔ I * K ≤ J := by
+  rw [le_div_iff, mul_le]
+
+@[simp, nolint simpNF]
+theorem one_le_one_div {I : Submodule R A} : 1 ≤ 1 / I ↔ I ≤ 1 := by
+  rw [le_div_iff_mul_le, one_mul]
+
+@[simp, nolint simpNF]
+theorem one_mem_div {I J : Submodule R A} : 1 ∈ I / J ↔ J ≤ I := by
+  rw [← one_le, le_div_iff_mul_le, one_mul]
```
Comment (harahu) [inline Mathlib/Algebra/Algebra/Operations.lean]: Note that simp normal form was broken by generalizing these theorems. I added nolints, but I don't know that this is the right solution. I ask reviewers for advice on what to do here.

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 2]
```diff
@@ -706,6 +706,76 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulSemiringAction
...
+        rw [zero_mul]
+        exact Submodule.zero_mem _
+      add_mem' := fun ha hb y hy => by
+        rw [add_mul]
+        exact Submodule.add_mem _ (ha _ hy) (hb _ hy)
+      smul_mem' := fun r x hx y hy => by
+        rw [Algebra.smul_mul_assoc]
+        exact Submodule.smul_mem _ _ (hx _ hy) }⟩
+
+@[simp]
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/Operations.lean]: original theorem does not have `@[simp]`.

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 3]
```diff
@@ -706,6 +706,76 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulSemiringAction
...
+  Iff.rfl
+
+theorem mem_div_iff_smul_subset {x : A} {I J : Submodule R A} :
+    x ∈ I / J ↔ x • (J : Set A) ⊆ I :=
+  ⟨fun h y ⟨y', hy', xy'_eq_y⟩ => by
+      rw [← xy'_eq_y]
+      exact h _ hy'
+    , fun h _ hy => h (Set.smul_mem_smul_set hy)⟩
+
+@[simp]
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/Operations.lean]: original theorem does not have `@[simp]`.

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 4]
```diff
@@ -706,6 +706,76 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulSemiringAction
...
+theorem le_div_iff {I J K : Submodule R A} : I ≤ J / K ↔ ∀ x ∈ I, ∀ z ∈ K, x * z ∈ J :=
+  Iff.rfl
+
+theorem le_div_iff_mul_le {I J K : Submodule R A} : I ≤ J / K ↔ I * K ≤ J := by
+  rw [le_div_iff, mul_le]
+
+@[simp, nolint simpNF]
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/Operations.lean]: original theorem does not have `@[simp]`.

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 5]
```diff
@@ -706,6 +706,76 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulSemiringAction
...
+theorem mem_div_iff_forall_mul_mem {x : A} {I J : Submodule R A} :
+    x ∈ I / J ↔ ∀ y ∈ J, x * y ∈ I :=
+  Iff.rfl
+
+theorem mem_div_iff_smul_subset {x : A} {I J : Submodule R A} :
+    x ∈ I / J ↔ x • (J : Set A) ⊆ I :=
+  ⟨fun h y ⟨y', hy', xy'_eq_y⟩ => by
+      rw [← xy'_eq_y]
+      exact h _ hy'
+    , fun h _ hy => h (Set.smul_mem_smul_set hy)⟩
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Operations.lean]: to keep things the same as before:
```suggestion
  ⟨fun h y ⟨y', hy', xy'_eq_y⟩ => by rw [← xy'_eq_y]; exact h _ hy',
    fun h _ hy => h (Set.smul_mem_smul_set hy)⟩
```

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 6]
```diff
@@ -706,6 +706,76 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulSemiringAction
...
+instance : Div (Submodule R A) :=
+  ⟨fun I J =>
+    { carrier := { x | ∀ y ∈ J, x * y ∈ I }
+      zero_mem' := fun y _ => by
+        rw [zero_mul]
+        exact Submodule.zero_mem _
+      add_mem' := fun ha hb y hy => by
+        rw [add_mul]
+        exact Submodule.add_mem _ (ha _ hy) (hb _ hy)
+      smul_mem' := fun r x hx y hy => by
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Operations.lean]:
```suggestion
      zero_mem' y _ := by
        rw [zero_mul]
        exact Submodule.zero_mem _
      add_mem' ha hb y hy := by
        rw [add_mul]
        exact Submodule.add_mem _ (ha _ hy) (hb _ hy)
      smul_mem' r x hx y hy := by
```

File: Mathlib/Algebra/Algebra/Operations.lean (hunk 2 above)
Comment (harahu) [reply Mathlib/Algebra/Algebra/Operations.lean]: LLM slop. Reverted.

File: Mathlib/Algebra/Algebra/Operations.lean (hunk 3 above)
Comment (harahu) [reply Mathlib/Algebra/Algebra/Operations.lean]: LLM slop. Reverted.

File: Mathlib/Algebra/Algebra/Operations.lean (hunk 4 above)
Comment (harahu) [reply Mathlib/Algebra/Algebra/Operations.lean]: LLM slop. Reverted.

File: Mathlib/Algebra/Algebra/Operations.lean (hunk 5 above)
Comment (harahu) [reply Mathlib/Algebra/Algebra/Operations.lean]: Reverted. Thanks!

**Comment by themathqueen** [comment]
Is there a way you can keep things in the same place and weaken the assumptions there? So it would be easier to read the diff and review.

**Comment by harahu** [comment]
> Is there a way you can keep things in the same place and weaken the assumptions there? So it would be easier to read the diff and review.

Unfortunately I think moving the results is what makes sense, since there is heavy reliance on variables in this file.

That said, I just reviewed the actual changes made in the move (in order to revert any unwanted changes). The only actual diff on the moved theorems is `[CommSemiring B]` -> `[Semiring B]` in `map_div`. The rest of the generalization is due to variables being broader in the new location.

**Comment by harahu** [comment]
See this: https://github.com/leanprover-community/mathlib4/pull/30250#issuecomment-3396948801
